US08334287B2
6-[4-(2-chloro-pyridin-4-ylethynyl)-2-methyl-imidazol-1-yl]-pyridin-2-ol
The title compound, white cristalline solid, MS: m/e=311.2, 313.2 (M+H+), was prepared in accordance with the general method of example 1a from 2-fluoro-6-[4-(2-chloro-pyridin-4-ylethynyl)-2-methyl-imidazol-1-yl]-pyridine and KOH in tert-butanol.

reactant | 2-fluoro-6-[4-(2-chloro-pyridin-4-ylethynyl)-2-methyl-imidazol-1-yl]-pyridine | FC1=NC(=CC=C1)N1C(=NC(=C1)C#CC1=CC(=NC=C1)Cl)C | C16H10ClFN4
reactant | KOH | [OH-].[K+]
solvent | tert-butanol | C(C)(C)(C)O | C4H10O
product | 6-[4-(2-chloro-pyridin-4-ylethynyl)-2-methyl-imidazol-1-yl]-pyridin-2-ol | ClC1=NC=CC(=C1)C#CC=1N=C(N(C1)C1=CC=CC(=N1)O)C | C16H11ClN4O
